US07338973B2
9-methoxy-12H-5-thia-12-aza-dibenzo[a,e]azulene
9-Methoxy-6,7-dihydro-12H-5-thia-12-aza-dibenzo[a,e]azulene (57 mg, 0.203 mmoL) in DMF (2 mL) was treated with KO2 (58 mg, 0.811 mmoL) and 18-Crown-6 (54 mg, 0.203) and the reaction mixture was stirred at room temperature for 6 hours. Water was added to quench the reaction. The mixture was then partitioned between EtOAc and saturated NH4Cl. The aqueous phase was extracted two times with EtOAc. The organic layer from each extraction was combined, washed with water, brine, dried over anhydrous Na2SO4, filtered and concentrated to yield a brown oil. The crude material (the oil) was then purified by column chromatography (silica gel, 1:1 hexanes:EtOAc as eluent) to yield the title compound as a brown solid.

reactant | 9-Methoxy-6,7-dihydro-12H-5-thia-12-aza-dibenzo[a,e]azulene | 57 mg | COC=1C=CC2=C(C=3CCSC4=C(C3N2)C=CC=C4)C1 | C17H15NOS
reactant | 18-Crown-6 | 54 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | Water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 9-methoxy-12H-5-thia-12-aza-dibenzo[a,e]azulene | COC=1C=CC2=C(C=3C=CSC4=C(C3N2)C=CC=C4)C1 | C17H13NOS
